US05273980
Step 1: 2-Chloromethyl-1,6-naphthyridine
To a solution of 2-methyl-1,6-naphthyridine (E. M. Hawes, J. Heteroc. Chem. 11(2), 151 (1974)) (3.8 g) in CCl4 (230 mL) were added N-chlorosuccinimide (4.2 g) and benzoylperoxide (320 mg). The mixture was brought to reflux with two 150-watt spotlights and irradiated for 4 hr. The mixture was then cooled to room temperature, evaporated to dryness, and chromatographed on flash silica gel using ethyl acetate:toluene (1:1) as eluant to give the title compound, 80% pure and used as is for the next step.

reactant | 2-methyl-1,6-naphthyridine | 3.8 g | CC1=NC2=CC=NC=C2C=C1 | C9H8N2
reactant | N-chlorosuccinimide | 4.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | benzoylperoxide | 320 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 230 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Chloromethyl-1,6-naphthyridine | ClCC1=NC2=CC=NC=C2C=C1 | C9H7ClN2
